### ISSUE TITLE
`exact?` and `grind` block on prior async theorem bodies

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#13705]
## Summary

In a `lean --server` session (where `Elab.async` is forced to `true` so theorem bodies are elaborated asynchronously), the tactics `exact?` and `grind` synchronously wait for *all* prior async theorem bodies in the same file to finish kernel-checking before they make any progress. `simp`, `simp_all`, `solve_by_elim`, `trivial`, and `try? => <specific>` do not.

This causes a downstream issue for `try?` (bare): because `try?`'s default suggestion list includes `exact?` and `grind`, any `try?` invocation also blocks on pending async theorem bodies. That in turn affects the empty-`by` `try?` integration (PR #13430) and any test that wants to reason about `try?` cancellation while a sibling theorem body is still elaborating.

## Reproduction

In a `tests/server_interactive` style test:

```lean
import Lean.Server.Test.Cancel
open Lean.Server.Test.Cancel

theorem t1 : True := by
  wait_for_unblock  -- synchronously blocks t1's body until `unblock` fires
  trivial

theorem t2 : True := by
  dbg_trace "t2 start"
  first
    | (exact?; dbg_trace "exact? done"; done)
    | dbg_trace "exact? failed"
  trivial
       --^ waitFor: blocked
       --^ insert: "; trivial\nexample : True := by unblock; trivial"
       --^ collectDiagnostics
```

Observed stderr order:

```
blocked!       <- t1 enters wait_for_unblock
t2 start       <- t2's body starts
unblocking!    <- runner triggers unblock
exact? done    <- only NOW does exact? return
```

`exact?` does not return until `t1`'s body has unblocked. Substituting `simp`, `simp_all`, or `solve_by_elim` for `exact?` produces the expected order (`<tac> done` before `unblocking!`); substituting `grind` or `grind only` reproduces the bug.

## Root cause (preliminary)

`LibrarySearch.librarySearch` (and presumably grind's theorem index) iterates the current module's constants via `env.constants.map₂.foldlM` (see `Lean/Meta/LazyDiscrTree.lean:942`).

`Environment.constants` (`Lean/Environment.lean:750-751`) is defined via `env.toKernelEnv.constants`, and `toKernelEnv` (`Lean/Environment.lean:665-666`) calls `env.checked.get` -- which blocks on the `Task Kernel.Environment` that only resolves after the kernel has finished checking all constants in the file, including pending async theorem bodies.

A non-blocking variant would have to iterate the available signatures from `asyncConstsMap` (`AsyncConstantInfo.sig` is committed eagerly by `addConstAsync.commitSignature` and does not require the body) rather than fall back to the blocking `env.checked.get` view. Library search only needs the signature, not the proof.

## Impact

* In an editor (LSP) session, `try?` and `exact?` typed near the top of a long file appear to "hang" until all theorems below have kernel-checked.
* In test infrastructure, gating a runner directive on a `try?`-emitted diagnostic from a theorem placed *before* a blocking sibling theorem causes a flaky-or-deterministic deadlock, depending on ordering.
